US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(morpholin-4-yl)benzamido)-4-phenylbenzoate (0.060 g) in ethyl acetate (1.5 mL) and methanol (1.5 mL), 10% palladium-carbon (0.030 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 3 hours and 30 minutes. Ethyl acetate was added to the reaction mixture. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue. The solid substance was collected by filtration to obtain 0.036 g of tert-butyl 2-(2-hydroxy-5-(morpholin-4-yl)benzamido)-4-phenylbenzoate as a yellow solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(morpholin-4-yl)benzamido)-4-phenylbenzoate | 0.060 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCOCC1 | C35H36N2O5
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | palladium-carbon | 0.030 g | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-(morpholin-4-yl)benzamido)-4-phenylbenzoate | 0.036 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCOCC1 | C28H30N2O5
